US20010029256A1
A mixture of 12-bromo-2,10-dichloro-12H-5,7-dioxa-dibenzo[a,d]cyclooctene (900 mg, 2.5 mmol), 2-bromoethanol (3.75 g, 30 mmol) and potassium carbonate (1.0 g, 7.2 mmol) in dichloromethane (10 mL) was heated at 120° C. for 4 h. The reaction mixture was concentrated in vacuo, added water (25 mL) and the product extracted with ethyl acetate (3×25 mL). The combined organic phases were dried (MgSO4), filtered and evaporated to give 832 mg (82%) of 12-(2-bromo-ethoxy)-2,10-dichloro-12H-5,7-dioxa-dibenzo[a,d]cyclooctene.

reactant | 12-bromo-2,10-dichloro-12H-5,7-dioxa-dibenzo[a,d]cyclooctene | 2.5 mmol, 900 mg | BrC1C2=C(OCOC3=C1C=C(C=C3)Cl)C=CC(=C2)Cl | C14H9BrCl2O2
reactant | 2-bromoethanol | 30 mmol, 3.75 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 12-(2-bromo-ethoxy)-2,10-dichloro-12H-5,7-dioxa-dibenzo[a,d]cyclooctene | 832 mg, 82% | BrCCOC1C2=C(OCOC3=C1C=C(C=C3)Cl)C=CC(=C2)Cl | C16H13BrCl2O3
